US08076514B2
[(R)-3-(2-tert-Butylcarbamoyl-5-fluoro-phenyl)-1-(2-fluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester
Using general procedure 2 with [(R)-2-(2-Fluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester (1.6 g, 3.9 mmol) and N-tert-Butyl-4-fluoro-2-methyl-benzamide (3.0 g, 14 mmol) followed by purification by silica gel flash column chromatography gives the title compound.

reactant | [(R)-2-(2-Fluoro-phenyl)-1-(methoxy-methyl-carbamoyl)-ethyl]-carbamic acid tert-butyl ester | 3.9 mmol, 1.6 g | C(C)(C)(C)OC(N[C@H](CC1=C(C=CC=C1)F)C(N(C)OC)=O)=O | C16H23FN2O4
reactant | N-tert-Butyl-4-fluoro-2-methyl-benzamide | 14 mmol, 3.0 g | C(C)(C)(C)NC(C1=C(C=C(C=C1)F)C)=O | C12H16FNO
product | [(R)-3-(2-tert-Butylcarbamoyl-5-fluoro-phenyl)-1-(2-fluoro-benzyl)-2-oxo-propyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H](C(CC1=C(C=CC(=C1)F)C(NC(C)(C)C)=O)=O)CC1=C(C=CC=C1)F)=O | C26H32F2N2O4
